US06987112B2
Benzoyl Urea and other Insecticides:
Diflubenzuron, Chlorfluazuron, Hexaflumuron, Triflumuron, Tetrabenzuron, Fulfenoxuron, Flucycloxuron, Buprofezin, Pyriproxyfen, Methoprene, Benzoepin, Diafenthiuron, Imidacloprid, Fipronyl, Nicotin sulfate, Rotenone, Metaldehyde, Machine oil, Microbial insecticides such as BT and insect-pathogenic viruses, etc.

reactant | Diflubenzuron | C1=CC(=C(C(=C1)F)C(=O)NC(=O)NC2=CC=C(C=C2)Cl)F | C14H9ClF2N2O2
reactant | Chlorfluazuron | C1=CC(=C(C(=C1)F)C(=O)NC(=O)NC=2C=C(C(=C(C2)Cl)OC3=C(C=C(C=N3)C(F)(F)F)Cl)Cl)F | C20H9Cl3F5N3O3
reactant | Hexaflumuron | C=1C=C(C(=C(C1)F)C(=O)NC(=O)NC=2C=C(C(=C(C2)Cl)OC(C(F)F)(F)F)Cl)F | C16H8Cl2F6N2O3
reactant | Triflumuron | C=1C=CC(=C(C1)C(=O)NC(=O)NC=2C=CC(=CC2)OC(F)(F)F)Cl | C15H10ClF3N2O3
reactant | Flucycloxuron | C1=CC(=C(C(=C1)F)C(=O)NC(=O)NC=2C=CC(=CC2)CO/N=C(/C=3C=CC(=CC3)Cl)\C4CC4)F | C25H20ClF2N3O3
reactant | Buprofezin | CC(C)N1/C(=N/C(C)(C)C)/SCN(C1=O)C=2C=CC=CC2 | C16H23N3OS
reactant | Pyriproxyfen | CC(COC=1C=CC(=CC1)OC=2C=CC=CC2)OC=3C=CC=CN3 | C20H19NO3
reactant | Methoprene | C[C@@H](CCCC(C)(C)OC)C/C=C/C(=C/C(=O)OC(C)C)/C | C19H34O3
reactant | Benzoepin | C1C2C(COS(=O)O1)C3(C(=C(C2(C3(Cl)Cl)Cl)Cl)Cl)Cl | C9H6Cl6O3S
reactant | Diafenthiuron | CC(C)C1=CC(=CC(=C1NC(=S)NC(C)(C)C)C(C)C)OC2=CC=CC=C2 | C23H32N2OS
reactant | Imidacloprid | C1=CC(=NC=C1CN\2CCN/C2=N\[N+](=O)[O-])Cl | C9H10ClN5O2
reactant | Nicotin sulfate | S(=O)(=O)(O)O.N1=CC=CC(=C1)C1N(C)CCC1
reactant | Rotenone | CC(=C)[C@H]1CC2=C(C=CC3=C2O[C@@H]4COC5=CC(=C(C=C5[C@@H]4C3=O)OC)OC)O1 | C23H22O6
reactant | Metaldehyde | CC1OC(OC(OC(O1)C)C)C | C8H16O4
product | Benzoyl Urea | C(C1=CC=CC=C1)(=O)NC(=O)N | C8H8N2O2
